US05847193
Then, 250 μl 200 mM K2HPO4, 10 μl 10 mM pyridoxal phosphate (PLP), 110 μl 25 mM O-acetyl-L-homoserine (OAHS) dissolved in 100 mM K2HPO4, and γ-cyano-α-aminobutyric acid synthase (GCAs) obtained in Example 5 were added to this trapped H11 CN, and the mixture was subjected to enzymatic reaction at 65° C. for 10 minutes.

reactant | pyridoxal phosphate | 10 mM, 10 μl | CC1=C(C(=C(C=N1)COP(=O)(O)O)C=O)O | C8H10NO6P
reactant | O-acetyl-L-homoserine | 25 mM, 110 μl | C(C)(=O)OCC[C@H](N)C(=O)O | C6H11NO4
solvent | K2HPO4 | 100 mM | OP(=O)([O-])[O-].[K+].[K+]
solvent | K2HPO4 | 200 mM, 250 μl | OP(=O)([O-])[O-].[K+].[K+]
product | γ-cyano-α-aminobutyric acid | C(#N)CCC(C(=O)O)N | C5H8N2O2
